US08309721B2
0.3 g of potassium carbonate and 1.68 g of 4-trans-aminocyclohexanol are successively added to a solution of 0.34 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate in 6 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 2 hours in a microwave, and then diluted with distilled water. The aqueous phase is extracted twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (75/25 by volume), so as to give 0.15 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(trans-4-hydroxycyclohexyl)amino]benzoate in the form of a white solid, the characteristics of which are the following:

reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate | 0.34 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C29H22FN3O2
solvent | dimethyl sulphoxide | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(trans-4-hydroxycyclohexyl)amino]benzoate | 0.15 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)N[C@@H]1CC[C@H](CC1)O | C35H34N4O3
